US07893067B2
Step a) 4-Cyanopropiophenone
As described for the preparation of 4-cyanoacetophenone (Synth. Commun 1994, 887-890), a mixture of 4-bromopropiophenone (5.65 g, 26.4 mmol), Zn(CN)2 (1.80 g, 15.3 mmol), and Pd(PPh3)4 (2.95 g, 2.6 mmol) was refluxed at 80° C. in deoxygenated DMF (35 mL, stored over 4 Å molecular sieves, bubbled with Ar before use) for 18 h. The mixture was partitioned between toluene (100 mL) and 2N NH4OH (100 mL). The organic phase was extracted with 2N NH4OH (100 mL), washed with saturated aqueous NaCl (2×100 mL), dried, and concentrated in vacuo. A 10 mmol scale reaction was done similarly and the crude products were combined. Flash chromatography (330 g silica, 6/1 petroleum ether—EtOAc) afforded the desired compound as a white solid (5.17 g, 89%).

reactant | 4-cyanoacetophenone | CC(=O)C1=CC=C(C=C1)C#N | C9H7NO
reactant | 4-bromopropiophenone | 26.4 mmol, 5.65 g | CCC(=O)C1=CC=C(C=C1)Br | C9H9BrO
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 15.3 mmol, 1.80 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 2.6 mmol, 2.95 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Cyanopropiophenone | 5.17 g, 89% | CCC(=O)C1=CC=C(C=C1)C#N | C10H9NO
